US07915443B2
(S)-N-{[3-(diethylamino)propyl](oxido)phenyl--sulfanylidene}-5-({3-[(3-methyl-2-furoyl)amino]phenyl}ethynyl)nicotinamide
In a manner similar to that described for Example 508, N-[(3-bromopropyl)(oxido)phenyl--sulfanylidene]-5-({3-[(3-methyl-2-furoyl)amino]phenyl}ethynyl)nicotinamide and diethylamine were converted to the title compound.

reactant | N-[(3-bromopropyl)(oxido)phenyl--sulfanylidene]-5-({3-[(3-methyl-2-furoyl)amino]phenyl}ethynyl)nicotinamide | BrCCCS(=NC(C1=CN=CC(=C1)C#CC1=CC(=CC=C1)NC(=O)C=1OC=CC1C)=O)(C1=CC=CC=C1)=O | C29H24BrN3O4S
reactant | diethylamine | C(C)NCC | C4H11N
product | (S)-N-{[3-(diethylamino)propyl](oxido)phenyl--sulfanylidene}-5-({3-[(3-methyl-2-furoyl)amino]phenyl}ethynyl)nicotinamide | C(C)N(CCC[S@@](=NC(C1=CN=CC(=C1)C#CC1=CC(=CC=C1)NC(=O)C=1OC=CC1C)=O)(C1=CC=CC=C1)=O)CC | C33H34N4O4S
